US07968570B2
A mixture of 7-chloro-2-(4-chloro-benzyl)-5-[3-(4-methyl-piperazin-1-yl)-prop-1-ynyl)-2,3-dihydro-isoindol-1-one (0.078 g, 0.18 mmol) and 10% palladium-carbon (0.015 g) in ethanol (25 mL) was reduced under 45 p.s.i. hydrogen. Workup and silica gel column chromatography using 5:1 CHCl3-MeOH afforded 7-chloro-2-(4-chloro-benzyl)-5-[3-(4-methyl-piperazin-1-yl)-propyl]-2,3-dihydro-isoindol-1-one (0.065 g, 83%). 1H NMR (300 MHz, CDCl3): δ (ppm) 1.79 (m, 2H), 2.31-2.72 (m, 15H), 4.18 (s, 2H), 4.74 (s, 2H), 7.08 (s, 1H), 7.28 (m, 5H).

reactant | 7-chloro-2-(4-chloro-benzyl)-5-[3-(4-methyl-piperazin-1-yl)-prop-1-ynyl)-2,3-dihydro-isoindol-1-one | 0.18 mmol, 0.078 g | ClC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)Cl)C#CCN1CCN(CC1)C | C23H23Cl2N3O
reactant | hydrogen | [H][H] | H2
reactant | CHCl3 MeOH | C(Cl)(Cl)Cl.CO
solvent | ethanol | 25 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 0.015 g | [C].[Pd]
product | 7-chloro-2-(4-chloro-benzyl)-5-[3-(4-methyl-piperazin-1-yl)-propyl]-2,3-dihydro-isoindol-1-one | 0.065 g, 83% | ClC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)Cl)CCCN1CCN(CC1)C | C23H27Cl2N3O
